US07589232B2
Step b) Formation of methyl(8E)-8-(hydroxyimino)-5,6,7,8-tetrahydronaphthalene-2-carboxylate
To a solution of methyl 8-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate (10 g, 0.048 mol) in MeOH (100 ml) was added hydroxylamine hydrochloride (5 g, 0.07 mol), followed by sodium acetate (6 g, 0.072 mol). The reaction mixture was stirred at rt for 1 h and heated to 50° C. for 15 h. The solvent was removed under vacuum and the residue was diluted with water. The product was extracted with EtOAc (2×150 ml), dried and evaporated to yield 10 g (93%) of the titled compound as a solid. TLC-Chloroform/MeOH (9/1), Rf=0.3.

reactant | methyl 8-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 0.048 mol, 10 g | O=C1CCCC=2C=CC(=CC12)C(=O)OC | C12H12O3
reactant | hydroxylamine hydrochloride | 0.07 mol, 5 g | Cl.NO
reactant | sodium acetate | 0.072 mol, 6 g | C(C)(=O)[O-].[Na+]
solvent | MeOH | 100 ml | CO | CH4O
product | methyl(8E)-8-(hydroxyimino)-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 10 g, 93% | O\N=C\1/CCCC=2C=CC(=CC12)C(=O)OC | C12H13NO3
